US07312233B2
2-((cyclopropylmethoxy)methyl)-2,3-dihydro-6-nitrobenzo[b][1,4]dioxine
(2,3-dihydro-6-nitrobenzo[b][1,4]dioxin-2-yl)methanol (500 mg, 0.002 mol) and sodium hydride (0.28 g, 0.0070 mol) were placed in a flask under nitrogen. The flask was placed in an ice bath and 25 mL DMF was added. The reaction was stirred at 0° C. for 10 minutes and then (chloromethyl)cyclopropane (440 μL, 0.0048 mol) was added. The mixture was warmed to room temp over 20 min then tetra-N-butylammonium bromide (1.53 g, 0.00475 mol) was added to the mixture and the reaction was stirred at room temperature overnight. The reaction was partitioned between EtOAc and water. The organic layer was separated, washed with brine, dried (Na2SO4), filtered and the filtrate was concentrated under vacuum to an oil. The oil was purified by column chromatography on silica gel using EtOAc/hexanes (10%) as eluent to give a yellow solid (0.33 g, 50%) as a solid. m/z=266 (M+1).

reactant | (2,3-dihydro-6-nitrobenzo[b][1,4]dioxin-2-yl)methanol | 0.002 mol, 500 mg | [N+](=O)([O-])C1=CC2=C(OC(CO2)CO)C=C1 | C9H9NO5
reactant | sodium hydride | 0.0070 mol, 0.28 g | [H-].[Na+]
reactant | (chloromethyl)cyclopropane | 0.0048 mol, 440 μL | ClCC1CC1 | C4H7Cl
catalyst | tetra-N-butylammonium bromide | 0.00475 mol, 1.53 g | CCCC[N+](CCCC)(CCCC)CCCC.[Br-]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 2-((cyclopropylmethoxy)methyl)-2,3-dihydro-6-nitrobenzo[b][1,4]dioxine | 0.33 g, 50% | C1(CC1)COCC1COC2=C(O1)C=CC(=C2)[N+](=O)[O-] | C13H15NO5
